US08981085B2
A mixture of N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-3-methoxypropanamide (110 mg, 0.348 mmol) and (R)-tert-butyl piperidin-3-ylcarbamate (279 mg, 1.39 mmol) in n-BuOH (5 mL) was stirred at 160° C. for 24 hours. The mixture was diluted with EtOAc (100 mL) and washed with brine (1×20 mL). The organic layer was separated, dried (MgSO4), filtered, and concentrated in vacuo. The residue was purified by C-18 reverse phase chromatography (Biotage 25M+ column) on Biotage SP4 unit eluting with 10-85% CH3CN gradient (25 CV) to provide (R)-tert-butyl 1-(5-bromo-3-(3-methoxypropanamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate as a solid. This material was dissolved in TFA (3 mL) and stirred at room temperature for 20 minutes. TFA was then removed in vacuo, and the residue was dissolved in a few drops of methanol and purified by C-18 reverse phase chromatography (Biotage C-18, 12M+ column) on Biotage SP4 unit eluting with 1-50% CH3CN/water gradient (14 CV). The product isolated was dissolved in CH2Cl2 (1 mL), and 2M HCl in ether (2 mL) was added. The solid was dissolved in MeOH, evaporated from CH2Cl2 (3×2 mL) and dried under high vacuum to provide (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-3-methoxypropanamide hydrochloride (28 mg, 20% yield) as a solid. 1H NMR (400 MHz, (CD3)2SO) δ 11.80 (s, 1H), 9.34 (s, 1H), 8.23 (br s, 4H), 7.57 (br s, 1H), 3.64 (t, 2H), 3.55-3.49 (m, 2H), 3.42-3.55 (m, 2H), 3.27 (s, 3H), 3.08-3.03 (m, 1H), 2.62 (t, 2H), 2.15-2.09 (m, 1H), 1.88-1.81 (m, 1H), 1.75-1.67 (m, 1H), 1.53-1.45 (m, 1H); LCMS (APCI+) m/z 396, 398 (M+H)+, Retention time=2.09 minutes (Method 2).

reactant | N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-3-methoxypropanamide | 0.348 mmol, 110 mg | BrC=1C(=C2C(=NC1)NC=C2NC(CCOC)=O)F | C11H11BrFN3O2
reactant | (R)-tert-butyl piperidin-3-ylcarbamate | 1.39 mmol, 279 mg | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
solvent | n-BuOH | 5 mL | CCCCO | C4H10O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (R)-tert-butyl 1-(5-bromo-3-(3-methoxypropanamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | BrC=1C(=C2C(=NC1)NC=C2NC(CCOC)=O)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C21H30BrN5O4
